Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
urinary frequency
 
Major Surgical or Invasive Procedure:
vaginal delivery
 
History of Present Illness:
___ G1 at 39+2 with urinary frequency q5min x 1 day. No dysuria 
or f/c, no incomplete void.  No ctx/LOF/VB. +AFM.  She is here 
with her boyfriend who is translating (___)
 
Past Medical History:
PNC:
- ___ ___ by LMP = second trimester U/S
- B pos, ab neg, RI, RPRNR, HepB neg, Hep C neg, HIV neg,
GC/Chlamydia neg, GBS POS
- low risk quad, nl ffs
- GTT neg
* Issues
- anemia getting IV Fe.

OB Hx: G1

Gyn Hx: denies abnl pap/STI

Med Hx: hx suicide attempt (tylenol overdose), hx anemia

Surg Hx: denies
 
Social History:
denies T/E/D, here with boyfriend
 
Physical ___:
(on admission)
BPs 144/80 -> 120s/60s
GENERAL: NAD, appropriate
ABDOMEN: soft NT gravid, 8# leopolds
EXTREMITIES: NT,NE
No CVAT

FHT: reactive no decels
TOCO: irreg
SVE: closed per RN in triage (2cm on last visit with Dr. ___
 
Pertinent Results:
___ WBC-5.0 RBC-4.15 Hgb-11.1 Hct-34.9 MCV-84 Plt-244
___ Hct-30.0 Creat-0.5 ALT-12 AST-16 UricAcd-4.2

___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-4 
TransE-<1
___ URINE Hours-RANDOM Creat-26 TotProt-<6

URINE CULTURE (Final ___: 
 MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH
 SKIN AND/OR GENITAL CONTAMINATION
 
Brief Hospital Course:
___ y/o G1 admitted at 39w2d with elevated BP's. Her blood 
pressures were initially 140s/80s, then improved signficantly. 
She had no evidence of preeclampsia given her normal labs and 
negative proteinuria. Fetal testing was reassuring. She was 
admitted to the antepartum service for observation and a 24 hour 
urine collection. On hospital day #2, she developed a headache 
and the decision was made to proceed with induction of labor. 
She received one dose of Cytotec followed by Pitocin and 
subsequently had a spontaneous vaginal delivery. She delivered a 
liveborn female weighing 3185g with apgars of 8 and 9. Shortly 
after delivery, Ms ___ was noted to have approximately 200cc 
of clot in the lower uterine segment which was expressed by 
bimanual exam. She received IV Pitocin as well as Cytotec 800mcg 
rectally. Her bleeding resolved and she remained hemodynamically 
stable. She was discharged home in stable condition on PPD#2.

Of note, social services was consulted to assess supports and 
she was given a referral to Healthy Families.
 
Medications on Admission:
prenatal vitamins
iron supplementation
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.
Disp:*60 Capsule(s)* Refills:*2*
2. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.
Disp:*50 Tablet(s)* Refills:*2*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p vaginal delivery
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
see nursing sheets
 
Followup Instructions:
___